US04098888
To a mixture of 1.0 g. of 2-(β,β,β-trichloroethoxycarbonyl)amino-4-formylthiazole, 0.87 g. of KH2PO4, 6 ml. of water and 4 ml. of dimethylformamide is added 0.33 g. of KCN at room temperature and the mixture is stirred for 30 minutes. The reaction mixture is extracted with ethyl acetate and the ethyl acetate layer is washed with water and dried. Evaporation of ethyl acetate gives α-hydroxy-[2-(β,β,β-trichloroethoxycarbonyl)aminothiazol-4-yl]-acetonitrile 1.127 g.

reactant | 2-(β,β,β-trichloroethoxycarbonyl)amino-4-formylthiazole | ClC(COC(=O)NC=1SC=C(N1)C=O)(Cl)Cl | C7H5Cl3N2O3S
reactant | KH2PO4 | OP(=O)(O)[O-].[K+]
reactant | water | O | H2O
reactant | KCN | [C-]#N.[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | α-hydroxy-[2-(β,β,β-trichloroethoxycarbonyl)aminothiazol-4-yl]-acetonitrile | 1.127 g | OC(C#N)C=1N=C(SC1)NC(=O)OCC(Cl)(Cl)Cl | C8H6Cl3N3O3S
